US07566712B2
CC. 4-(3-chlorophenyl)-2-morpholino-6-(4-(3-(trifluoromethyl)pyridin-2-yl)piperazin-1-yl)pyrimidine-5-carbonitrile
Dissolve 4-chloro-6-(3-chlorophenyl)-2-morpholinopyrimidine-5-carbonitrile (33.5 mg, 0.1 mmoles) and 1-(3-(trifluoromethyl)-pyridin-2-yl)piperazine (23 mg, 0.1 mmoles) in CH3CN (1.0 mL) under nitrogen atmosphere. Add anhydrous powdered K2CO3 (28 mg, 0.2 mmoles) to this mixture and heat at 80° C. for 24 hours. Cool, dilute with water (5 mL), extract with EtOAc (3×2 mL) and dry over MgSO4. Filter, and concentrate under vacuum to afford crude product Purify by flash column chromatography using 30% EtOAc/hexane to afford the title product as white solid. NMR (DMSO-D6) δ 3.30 (4H, s), 3.62 (4H, m), 3.80 (4H, s), 3.93 (4H, s), 7.19 (1H, m), 7.51 (1H, m), 7.59 (1H, m), 7.76 (1H, m), 7.83 (1H, s), 8.07 (1H, d, J=2.0), 8.52 (1H, d, J=1.2). Mass spec m/z=530.12.

reactant | 4-chloro-6-(3-chlorophenyl)-2-morpholinopyrimidine-5-carbonitrile | 0.1 mmoles, 33.5 mg | ClC1=NC(=NC(=C1C#N)C1=CC(=CC=C1)Cl)N1CCOCC1 | C15H12Cl2N4O
reactant | 1-(3-(trifluoromethyl)-pyridin-2-yl)piperazine | 0.1 mmoles, 23 mg | FC(C=1C(=NC=CC1)N1CCNCC1)(F)F | C10H12F3N3
reactant | K2CO3 | 0.2 mmoles, 28 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 1.0 mL | CC#N | C2H3N
solvent | water | 5 mL | O | H2O
product | 4-(3-chlorophenyl)-2-morpholino-6-(4-(3-(trifluoromethyl)pyridin-2-yl)piperazin-1-yl)pyrimidine-5-carbonitrile | ClC=1C=C(C=CC1)C1=NC(=NC(=C1C#N)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)N1CCOCC1 | C25H23ClF3N7O
